US08703768B2
6-Cyclopropyl-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid [4-(2-oxa-6-aza-spiro[3.3]heptane-6-carbonyl)-pyridin-3-yl]-amide
According to the general method described in step 3 of example 53, reaction of 2-oxa-6-aza-spiro[3.3]heptane with 3-{[6-cyclopropyl-3-(pyrimidin-5-ylamino)-pyridine-2-carbonyl]-amino}-isonicotinic acid provided the title compound (9%) as amorphous off-white solid.

reactant | 2-oxa-6-aza-spiro[3.3]heptane | C1OCC12CNC2 | C5H9NO
reactant | 3-{[6-cyclopropyl-3-(pyrimidin-5-ylamino)-pyridine-2-carbonyl]-amino}-isonicotinic acid | C1(CC1)C1=CC=C(C(=N1)C(=O)NC1=C(C(=O)O)C=CN=C1)NC=1C=NC=NC1 | C19H16N6O3
product | 6-Cyclopropyl-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid [4-(2-oxa-6-aza-spiro[3.3]heptane-6-carbonyl)-pyridin-3-yl]-amide | 9% | C1OCC12CN(C2)C(=O)C2=C(C=NC=C2)NC(=O)C2=NC(=CC=C2NC=2C=NC=NC2)C2CC2 | C24H23N7O3
